US07064123B1
A solution of (E)-(R)-2-((S)-1-Hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pent-4-enoic acid methyl ester (1.55 g, 4.65 mmol) in methanol (15 ml) was hydrogenated at 50 psi over Pd/C for 4 hrs. The catalyst was removed by filtration through celite and the filtrate concentrated under reduced pressure to give (R)-2-((S)-1-Hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid methyl ester as pale, brown solid (1.45 g); 1H NMR (CDCl3) δ 1.90–1.65 (m, 4H), 2.62–2.75 (m, 3H), 3.75–3.40 (m, 11H), 4.0 (d, J=15 Hz, 1H), 4.47–4.4.39 (m, 1H), 7.38–7.15 (m, 5H); MS: 336(M+).

reactant | (E)-(R)-2-((S)-1-Hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pent-4-enoic acid methyl ester | 4.65 mmol, 1.55 g | COC([C@H](C\C=C\C1=CC=CC=C1)[C@@H](C(=O)N1CCOCC1)O)=O | C18H23NO5
solvent | methanol | 15 ml | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (R)-2-((S)-1-Hydroxy-2-morpholin-4-yl-2-oxo-ethyl)-5-phenyl-pentanoic acid methyl ester | COC([C@H](CCCC1=CC=CC=C1)[C@@H](C(=O)N1CCOCC1)O)=O | C18H25NO5
